US07067515B2
2,3-Dibromobenzofuran (1.37 g, 5.0 mmol) is dissolved in Et2O (20 ml) in a dry flask under nitrogen and cooled to −78° C. t-Butylithium (6.47 ml, 11.0 mmol) is added drop-wise, and the chilled solution is stirred 1 h. DMF (0.45 ml, 5.75 mmol) is dissolved in Et2O (5 ml) and also added dropwise, and the mixture is stirred at −78° C. for another 4 h. The reaction is warmed to rt, whereby oxalic acid dihydrate (1.26 g, 10.0 mmol) and water (5 ml) are added. The reaction continued stirring at rt for 2 days and is then diluted with water (25 ml) and EtOAc (35 ml). The layers are allowed to separate, and the aqueous is extracted with EtOAc (1×35 ml). The organics are combined, dried over Na2SO4, filtered, and concentrated to an orange oil that solidified upon standing. The crude material is chromatographed over 100 g slurry-packed silica, eluting with 20% EtOAc/hexane. The appropriate fractions are combined and concentrated to afford 628 mg (56%) of 3-bromo-1-benzofuran-2-carbaldehyde as a yellow crystalline solid. HRMS (FAB) calcd for C9H5BrO2+H: 224.9552, found 224.9555.

reactant | 2,3-Dibromobenzofuran | 5.0 mmol, 1.37 g | BrC=1OC2=C(C1Br)C=CC=C2 | C8H4Br2O
reactant | DMF | 5.75 mmol, 0.45 ml | CN(C)C=O | C3H7NO
reactant | oxalic acid dihydrate | 10.0 mmol, 1.26 g | O.O.C(C(=O)O)(=O)O
solvent | Et2O | 20 ml | CCOCC | C4H10O
solvent | Et2O | 5 ml | CCOCC | C4H10O
solvent | water | 25 ml | O | H2O
solvent | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
solvent | water | 5 ml | O | H2O
product | 3-bromo-1-benzofuran-2-carbaldehyde | 628 mg, 56% | BrC1=C(OC2=C1C=CC=C2)C=O | C9H5BrO2
